US07148218B2
e) Preparation of 2,4-dideoxy-5-O-[(1,1-dimethylethyl)dimethylsilyl]-3-O-[(4-methoxyphenyl)methyl]-2,4-dimethyl-L-lyxose.
A solution of 2,4-dideoxy-1-O-[(1,1-dimethylethyl)dimethylsilyl]-3-O-[(4-methoxyphenyl)methyl]-2,4-dimethyl-L-arabinitol (10.77 g, 28.19 mmol), DMSO (30 mL), NEt3 (11.39 g, 112.76 mmol) and methylene chloride is cooled to −10° C., and treated with SO3-Pyr (13.45 9, 84.58 mmol)in DMSO (60 mL) over 40 min. After additional 2 h at 0° C., the mixture is diluted with ether (300 mL), washed with 1 M aqueous NaHSO4 (100 mL), brine (100 mL), and concentrated. Flash chromatography (5% ethyl acetate in hexane) gives the desired compound (9 g, 84%) as a colorless oil.

reactant | 2,4-dideoxy-1-O-[(1,1-dimethylethyl)dimethylsilyl]-3-O-[(4-methoxyphenyl)methyl]-2,4-dimethyl-L-arabinitol | 28.19 mmol, 10.77 g | CC(C)(C)[Si](OC[C@@H]([C@@H](OCC1=CC=C(C=C1)OC)[C@H](CO)C)C)(C)C | C21H38O4Si
reactant | NEt3 | 112.76 mmol, 11.39 g | CCN(CC)CC | C6H15N
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | DMSO | 60 mL | CS(=O)C | C2H6OS
solvent | ether | 300 mL | CCOCC | C4H10O
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
product | 2,4-dideoxy-5-O-[(1,1-dimethylethyl)dimethylsilyl]-3-O-[(4-methoxyphenyl)methyl]-2,4-dimethyl-L-lyxose | 9 g, 84% | CC(C)(C)[Si](OC[C@@H]([C@H]([C@H](C=O)C)OCC1=CC=C(C=C1)OC)C)(C)C | C21H36O4Si
